US07132539B2
Preparation of 1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid [2-(2-allyl-4-benzyloxy-pyrrolidin-1-yl)-1-(4-fluor-benzyl)-2-oxo-ethyl]-amide (56):
3-[2-(2-Allyl-4-benzyloxy-pyrrolidin-1-yl)-1-(4-fluorobenzyl)-2-oxo-ethylcarbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester, 55, (200 mg) is dissolved into CH2Cl2 (3 mL) and trifluoroacetic acid (1 mL) is added. The reaction mixture is stirred for 5 hours and concentrated. The residue is purified by reverse phase HPLC to afford 50 mg of the desired product. 1H NMR (CDCl3, 300 MHz) δ 6.80˜7.50 (m, 13H), 5.75 (m, 1H), 5.06 (m, 2H), 4.30˜4.70 (m, 6H), 4.06 (m, 2H), 3.75 (m, 1H), 2.90˜3.30 (m, 6H), 2.69 (m, 1H), 2.23 (m, 1H), 1.80˜2.00 (m, 2H); MS (ES-MS) m/z 542 (M+1).

reactant | 3-[2-(2-Allyl-4-benzyloxy-pyrrolidin-1-yl)-1-(4-fluorobenzyl)-2-oxo-ethylcarbamoyl]-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=CC=C2CC1C(NC(C(=O)N1C(CC(C1)OCC1=CC=CC=C1)CC=C)CC1=CC=C(C=C1)F)=O | C38H44FN3O5
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 1,2,3,4-tetrahydro-isoquinoline-3-carboxylic acid [2-(2-allyl-4-benzyloxy-pyrrolidin-1-yl)-1-(4-fluor-benzyl)-2-oxo-ethyl]-amide | 50 mg | C(C=C)C1N(CC(C1)OCC1=CC=CC=C1)C(C(CC1=CC=C(C=C1)F)NC(=O)C1NCC2=CC=CC=C2C1)=O | C33H36FN3O3
